* source CLOCK_CPU
V_V1         N00080 0 5Vdc
R_R2         N00337 N00511  14.4k TC=0,0 
R_R3         0 N00568  1k TC=0,0 
C_C1         0 N00337  1u  TC=0,0 
C_C2         0 N00547  100n  TC=0,0 
X_X1         0 N00337 N00568 N00080 N00547 N00337 N00511 N00080 555D PARAMS:
+  MAXFREQ=3E6
R_R4         N00511 N00080  1k TC=0,0 
